US06348461B1
Ethyl 3,4-dihydro-7-methyl-6-nitro-3-oxoquinoxaline-2-carboxylate
To a solution of ethyl-3,4-dihydro-7-methyl-3-oxoquinoxaline-2-carboxylate (1.65 g, 7.10 mmol) in acetic acid (15 ml) was added dropwise fuming nitric acid (1.36 ml, 14.2 mmol), and the mixture was stirred for 1 hour at 60° C. The reaction mixture was poured into ice water and, after stirring for 25 minutes, the precipitate was collected by filtration. These were air-dried and then dissolved into ethyl acetate. Moreover, the filtrate was extracted with ethyl acetate, which was combined with foregoing organic layer. After dried over anhydrous sodium sulfate, solvent was distilled off. The residue obtained was purified by means of silica gel column chromatography [n-hexane:ethyl acetate=1:1] to obtain 887 mg of the title compound as pale yellow powder. Yield 45%.

reactant | ethyl-3,4-dihydro-7-methyl-3-oxoquinoxaline-2-carboxylate | 7.10 mmol, 1.65 g | C(C)OC(=O)C1=NC2=CC(=CC=C2NC1=O)C | C12H12N2O3
reactant | nitric acid | 14.2 mmol, 1.36 ml | [N+](=O)(O)[O-] | HNO3
solvent | acetic acid | 15 ml | C(C)(=O)O | C2H4O2
product | Ethyl 3,4-dihydro-7-methyl-6-nitro-3-oxoquinoxaline-2-carboxylate | 887 mg, Yield 45% | CC1=C(C=C2NC(C(=NC2=C1)C(=O)OCC)=O)[N+](=O)[O-] | C12H11N3O5
